US05780465
24. Preparation of 4-Mercapto-5-(2,2-dimethylindan-1-yl)pyrimidine (Cpd. 180)
A mixture of 1.0 g (0.004 mol) of 4-methylthio-5-(2,2-dimethylindan-1-yl)pyrimidine and 1.4 g of sodium methanethiolate in 10 mL of N,N-dimethylformamide was prepared and heated to reflux with stirring for 1.5 hr. The mixture was cooled and was then added to 20 mL of 2N aqueous hydrochloric acid with stirring. The mixture obtained was extracted with 30 mL of ethyl acetate and the resulting organic solution was washed with water and then saturated aqueous sodium chloride. It was then dried over sodium sulfate and concentrated by evaporation under reduced pressure to obtain an oil. The oil was low pressure liquid chromatographed on silica gel eluting first with hexane to remove impurities and then with a 50:50 by volume mixture of ethyl acetate and hexane. The fractions containing the major component of the mixture were concentrated by evaporation under reduced pressure and the oil that was obtain solidified. The resulting 0.66 g (70 percent of theory) solids was the title compound melting at 184°-186° C.

reactant | 4-methylthio-5-(2,2-dimethylindan-1-yl)pyrimidine | 0.004 mol, 1.0 g | CSC1=NC=NC=C1C1C(CC2=CC=CC=C12)(C)C | C16H18N2S
reactant | sodium methanethiolate | 1.4 g | C[S-].[Na+]
reactant | hydrochloric acid | 2N, 20 mL | Cl | ClH
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-Mercapto-5-(2,2-dimethylindan-1-yl)pyrimidine | SC1=NC=NC=C1C1C(CC2=CC=CC=C12)(C)C | C15H16N2S
